US09359375B2
The mixture of 2-tributylstannylthiazole (1.57 mL, 5.00 mmol), 3-iodoaniline (0.50 mL, 4.16 mmol) and Pd(Ph3P)4 (465 mg, 0.4 mmol) in 50 mL toluene was degassed using Ar. The mixture was then stirred under Ar at 115° C. for 3 h. The mixture was concentrated and subjected to flash column (0 to 4.5% MeOH in DCM) to isolate 3-(thiazol-2-yl)aniline (709 mg, 95% yield).

reactant | 2-tributylstannylthiazole | 5.00 mmol, 1.57 mL | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
reactant | 3-iodoaniline | 4.16 mmol, 0.50 mL | IC=1C=C(N)C=CC1 | C6H6IN
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(Ph3P)4 | 0.4 mmol, 465 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(thiazol-2-yl)aniline | 709 mg, 95% yield | S1C(=NC=C1)C=1C=C(N)C=CC1 | C9H8N2S
